US09376449B2
To a mixture of tert-butyl (2,3-dihydro-1-benzofuran-5-yl)carbamate (410 mg) and acetonitrile (9.00 mL) was added N-bromosuccinimide (341 mg), followed by stirring at 65° C. for 1 hour. After cooling to room temperature, the reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The insoluble materials were separated by filtration, the filtrate was concentrated under reduced pressure, and then the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=100:0 to 92:8) to obtain tert-butyl (6-bromo-2,3-dihydro-1-benzofuran-5-yl)carbamate (178 mg) as a colorless solid.

reactant | tert-butyl (2,3-dihydro-1-benzofuran-5-yl)carbamate | 410 mg | O1CCC2=C1C=CC(=C2)NC(OC(C)(C)C)=O | C13H17NO3
reactant | N-bromosuccinimide | 341 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 9.00 mL | C(C)#N | C2H3N
product | tert-butyl (6-bromo-2,3-dihydro-1-benzofuran-5-yl)carbamate | 178 mg | BrC1=CC2=C(CCO2)C=C1NC(OC(C)(C)C)=O | C13H16BrNO3
